data/rdb19/train.csv
rxn,smiles,ea
74,[C:12]([C:13]([C:14](=[C:15]([H:22])[H:23])[H:21])([H:19])[H:20])([H:16])([H:17])[H:18].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]#[N:5])[C:14]([C:13]([C:12]([H:16])([H:17])[H:18])([H:19])[H:20])([C:15]([H:22])[H:23])[H:21])([H:6])([H:7])[H:8],20.605080750596244
2262,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:19])([H:20])[H:21])([C:12]([H:22])([H:23])[H:24])[C:13]([H:25])([H:26])[H:27])([H:17])[H:18])([H:14])([H:15])[H:16]>>[C:1]([C:2]([H:3])([H:4])[H:16])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:19])([H:20])[H:21])([C:12]([H:22])([H:23])[H:24])[C:13]([H:25])([H:26])[H:27])([H:17])[H:18])([H:14])[H:15],22.48373189367703
4711,[C:1]([H:2])([H:3])[H:4].[C:5]([C:6]([C:7]([C:8]([H:17])([H:18])[H:19])([O:9][C:10]([H:20])([H:21])[H:22])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13]>>[C:1]([H:2])([H:3])([H:4])[H:14].[C:5]([C:6]([C:7]([C:8]([H:17])([H:18])[H:19])([O:9][C:10]([H:20])([H:21])[H:22])[H:16])[H:15])([H:11])([H:12])[H:13],19.17087843938498
1527,[O:1]([C:2]([O:3])([C:4](=[C:5]([H:8])[H:9])[H:7])[C:12]([C:11]([C:10]([H:18])([H:19])[H:20])([H:21])[H:22])([H:13])[O:14][C:15](=[O:16])[C:17]([H:23])([H:24])[H:25])[H:6]>>[C:10]([C:11]([H:21])[H:22])([H:18])([H:19])[H:20].[O:1]([C:2]1([C:4](=[C:5]([H:8])[H:9])[H:7])[O:3][C:12]1([H:13])[O:14][C:15](=[O:16])[C:17]([H:23])([H:24])[H:25])[H:6],45.11160937917885
1739,[C:15]([C:16]([O:17][C:18](=[O:19])[C:20](=[C:21]([H:28])[H:29])[H:27])([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:15]([C:16]([O:17][C:18](=[O:19])[C:20]=[C:21]([H:28])[H:29])([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:27])([H:11])[H:12])([H:8])([H:9])[H:10],28.938439200399444
1474,[C:10]([O:11][C:12]([C:13]([H:21])([H:22])[H:23])([C:14]([H:15])[H:16])[H:20])([H:17])([H:18])[H:19].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[O:1]([C:2](=[O:3])[C:4]([C:5]([H:8])([H:9])[C:14]([C:12]([O:11][C:10]([H:17])([H:18])[H:19])([C:13]([H:21])([H:22])[H:23])[H:20])([H:15])[H:16])[H:7])[H:6],11.55886678287061
2053,[C:11]([C:12]([C:13]([H:23])([H:24])[H:25])([C:14]([H:15])[H:16])[C:17](=[O:18])[O:19][H:26])([H:20])([H:21])[H:22].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[H:9][C:14]([C:12]([C:11]([H:20])([H:21])[H:22])([C:13]([H:23])([H:24])[H:25])[C:17](=[O:18])[O:19][H:26])([H:15])[H:16].[N:1]([C:2](=[O:3])[C:4](=[C:5][H:10])[H:8])([H:6])[H:7],26.339015904639385
4948,[C:15]([C:16]([C:17]([C:18]([H:28])([H:29])[H:30])([N:19]([C:20](=[O:21])[H:32])[H:31])[H:27])([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])[O:5][C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:4])[O:5][C:6]([H:12])([H:13])[H:14])[H:10])([H:7])([H:8])[H:9].[H:11][C:20]([N:19]([C:17]([C:16]([C:15]([H:22])([H:23])[H:24])([H:25])[H:26])([C:18]([H:28])([H:29])[H:30])[H:27])[H:31])([O:21])[H:32],49.06506277289009
777,[C:19]([C:20]([C:21]([C:22]([H:32])([H:33])[H:34])([C:23]([H:24])[H:25])[H:31])([H:29])[H:30])([H:26])([H:27])[H:28].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:19]([C:20]([C:21]([C:22]([H:32])([H:33])[H:34])=[C:23]([H:24])[H:25])([H:29])[H:30])([H:26])([H:27])[H:28].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]=[O:6])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[N:7]([H:17])([H:18])[H:31],54.06813946337206
3529,[C:17]([C:18](=[O:19])[O:20][C:21](=[C:22]([H:27])[H:28])[H:26])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:22]([C:21]([O:20][C:18]([C:17]([H:23])([H:24])[H:25])=[O:19])[H:26])([H:27])[H:28])([H:9])[H:10])([H:6])([H:7])[H:8],14.321002944838256
5535,[C:13]([C:14]([C:15]([H:16])[H:17])([N:18]([C:19](=[O:20])[H:26])[H:25])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2](=[O:3])[O:4][C:5](=[C:6]([H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:13]([C:14](=[C:15]([H:16])[H:17])[N:18]([C:19](=[O:20])[H:26])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2](=[O:3])[O:4][C:5]([C:6]([H:11])[H:12])([H:10])[H:24])([H:7])([H:8])[H:9],37.88931904034689
3835,[C:13]([C:14]([C:15]([C:16]([H:26])([H:27])[H:28])[C:17](=[O:18])[O:19][C:20]([H:29])([H:30])[H:31])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([C:2]([C:3]([C:4]([H:11])[H:12])([H:10])[C:15]([C:14]([C:13]([H:21])([H:22])[H:23])([H:24])[H:25])([C:16]([H:26])([H:27])[H:28])[C:17](=[O:18])[O:19][C:20]([H:29])([H:30])[H:31])([H:8])[H:9])([H:5])([H:6])[H:7],20.25073038542177
